* Z:\home\patrick\Dropbox\2270ecen\2lab\b\Draft1.asc
V1 N001 0 10
R1 N001 N002 {RB}
Q1 N001 N002 N003 0 FZT849
Q2 0 N005 N004 0 2N2905A
RM N003 N004 2
R3 N005 0 {RB}
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTSpiceIV\lib\cmp\standard.bjt
.param RB = 495.764
.tran 0 1.5s 1s
.backanno
.end
